US20010012843A1
(2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2-[[iodomethoxy]carbonyloxy]butane
NaI (19.4 mmol) was added to an acetone solution of (2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2-[[chloromethoxy]carbonyloxy]butane (6.5 mmol). The reaction was heated to 50° C. for 5 hours. After cooling to room temperature, the crude reaction was filtered, concentrated, and then dissolved in EtOAc. The organic layer was washed sequentially with aqueous solutions of NaHCO3 and Na2S2O3. The organic layer was then washed with H2O, dried over MgSO4, and was concentrated to obtain 3.76 g of the subtitled compound as a yellow solid. 1H NMR (DMSO) δ8.47 (s, 1H), 8.29 (s, 1H), 8.08 (s, 1H), 7.97 (d, 2H, J=8), 7.88 (d, 2H, J=8), 7.26-7.12 (m, 3H), 6.08 (s, 2H), 5.70 (d, J=1H, J=15), 5.36 (d, 1H, J=15), 4.02 (q, 1H, J=7), and 1.48 (d, 3H, J=7); MS (MH+=622).

reactant | NaI | 19.4 mmol | [Na+].[I-]
reactant | (2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2-[[chloromethoxy]carbonyloxy]butane | 6.5 mmol | C(#N)C1=CC=C(C=C1)C=1N=C(SC1)[C@@H]([C@@](CN1N=CN=C1)(OC(=O)OCCl)C1=C(C=C(C=C1)F)F)C | C24H18ClF2N5O3S
solvent | acetone | CC(=O)C | C3H6O
product | (2R,3R)-3-[4-(4-cyanophenyl)thiazol-2-yl]-2-(2,4-difluorophenyl)-1-(1H-1,2,4-triazol-1-yl)-2-[[iodomethoxy]carbonyloxy]butane | 3.76 g | C(#N)C1=CC=C(C=C1)C=1N=C(SC1)[C@@H]([C@@](CN1N=CN=C1)(OC(=O)OCI)C1=C(C=C(C=C1)F)F)C | C24H18F2IN5O3S
